US06998412B2
Diethyl (4-bromphenyl)malonate
Under argon flow, 10.85 g of diethyl carbonate was dissolved in 60 ml of benzene, and 2.75 g of 60% sodium hydride was added and the mixture was heated to reflux. A solution of 5.58 g of ethyl 4-bromophenylacetate/20 ml of benzene was added dropwise to the solution over 1 hour, and the mixture was heated to reflux for 1 hour. After cooling, ice-cold water was added dropwise to the reaction solution slowly. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=10:1) to provide 6.45 g of the objective compound as colorless oil.

reactant | diethyl carbonate | 10.85 g | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | 2.75 g | [H-].[Na+]
reactant | ethyl 4-bromophenylacetate | 20 ml, 5.58 g | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | Diethyl (4-bromphenyl)malonate | 6.45 g | BrC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C13H15BrO4
